US04141913
By way of illustration, one mole of diphenylamine is reacted with a 10% molar excess of phosgene in a suitable solvent such as monochlorobenzene, to yield diphenylcarbamyl chloride. The carbamyl chloride thus produced is reacted further with n-propyl amine in stoichiometric amounts, in the presence of a mole of caustic soda. Diphenyl propyl urea (DPPU) is formed in essentially stoichiometric amounts. The DPPU formed may be either separated from the solvent or, if desired, supplied as a solution in its reaction solvent. DPPU pyrolyzes at 210°-220° C. to yield n-propyl isocyanate of 99% purity and greater than 90% yield. The diphenylamine remaining may be returned easily in tankcars or tankwagons for reprocessing.

reactant | diphenylamine | one mole | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | monochlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | diphenylcarbamyl chloride | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
